US09029536B2
A) 4-(6-Fluoro-1-methyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol
A mixture of [4-(benzyloxy)phenyl](3,5-difluoropyridin-2-yl)methanone (300 mg), methylhydrazine (212 mg) and 2-propanol (5 mL) was stirred at room temperature for 30 min, and then at 90° C. for 12 h, treated with water, and extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The crude material was dissolved in EtOH (20 mL) and 10% Pd—C (50% wet, 98 mg) was added. The mixture was stirred for 1 h under H2 atmosphere, filtered and evaporated. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (125 mg).

reactant | [4-(benzyloxy)phenyl](3,5-difluoropyridin-2-yl)methanone | 300 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NC=C(C=C1F)F | C19H13F2NO2
reactant | methylhydrazine | 212 mg | CNN | CH6N2
reactant | 2-propanol | 5 mL | CC(C)O | C3H8O
solvent | water | O | H2O
product | 4-(6-Fluoro-1-methyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenol | 125 mg | FC=1C=C2C(=NC1)C(=NN2C)C2=CC=C(C=C2)O | C13H10FN3O
